US05258399
A solution of N-(4-iodophenyl)-N-methylmethanesulphonamide (0.31 g, 1 mmol), 4-(3-mercaptophenyl)-4-methoxytetrahydropyran (0.22 g), potassium carbonate (20 mg) and copper (I) chloride (30 mg) in DMF (20 ml) was heated to 140° C. and stirred for 3 hours. Ethyl acetate (40 ml) and water (40 ml) were added and the mixture was filtered through celite. The filtrate was washed with water (40 ml) and brine (40 ml), dried (MgSO4) and the solvent evaporated. The product was purified by column chromatography, thus N-{4-[3-(4-methoxytetrahydropyran-4-yl)phenylthio]phenyl}-N-methylmethanesulphonamide was obtained as an oil (0.12 g, 42%). NMR Spectrum 1.85-2.10 (4H, m), 2.85 (3H, s) 3.00 (3H, s), 3.30 (3H, s), 3.75-3.90 (4H, m), 7.25-7.35 (8H, m).

reactant | N-(4-iodophenyl)-N-methylmethanesulphonamide | 1 mmol, 0.31 g | IC1=CC=C(C=C1)N(S(=O)(=O)C)C | C8H10INO2S
reactant | 4-(3-mercaptophenyl)-4-methoxytetrahydropyran | 0.22 g | SC=1C=C(C=CC1)C1(CCOCC1)OC | C12H16O2S
reactant | potassium carbonate | 20 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | copper (I) chloride | 30 mg | [Cu]Cl
solvent | water | 40 ml | O | H2O
product | N-{4-[3-(4-methoxytetrahydropyran-4-yl)phenylthio]phenyl}-N-methylmethanesulphonamide | COC1(CCOCC1)C=1C=C(C=CC1)SC1=CC=C(C=C1)N(S(=O)(=O)C)C | C20H25NO4S2
